US07041687B2
2-(3,4-Dichloro-phenyl)-succinic acid 1-methyl ester:
Trifluoroacetic acid (100 ml) was added to a mixture of 2-(3,4-dichloro-phenyl)-succinic acid 4-tert-butyl ester 1-methyl ester (23.64 g, 0.071 mol) and dichloromethane (100 ml). The reaction mixture was stirred at room temperature for 3 hours then concentrated in vacuo. The crude mixture was kept under vacuo for several hours before being used without further purification in the next step.). 1H NMR (400 MHz, DMSO-d6) δ 2.66 (1H, dd), 3.01 (1H, dd), 3.59 (3H, s), 4.08 (1H, m), 7.30 (1H, m), 7.56–7.61 (2H, m); MS (ES+): m/e=277.1 (100%), 279.1 (65%), 281.0 (10%); MS (ES−): m/e=275.1 (50%), 277.1 (30%), 279.1 (5%).

reactant | Trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(3,4-dichloro-phenyl)-succinic acid 4-tert-butyl ester 1-methyl ester | 0.071 mol, 23.64 g | COC(C(CC(=O)OC(C)(C)C)C1=CC(=C(C=C1)Cl)Cl)=O | C15H18Cl2O4
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(3,4-Dichloro-phenyl)-succinic acid 1-methyl ester | COC(C(CC(=O)O)C1=CC(=C(C=C1)Cl)Cl)=O | C11H10Cl2O4
